US07067517B2
Methyl-phenyl-carbamic acid 3-(2,6-dichloro-benzyl)-6-chloro-4-methyl-2-oxo-2H-chromen-7-yl ester
The title compound was prepared from 3-(2,6-dichloro-benzyl)-6-chloro-7-hydroxy-4-methyl-2H-chromen-2-one and 3-(methyl-phenyl-carbamoyl)-1-methyl-3H-imidazol-1-ium iodide.

reactant | 3-(2,6-dichloro-benzyl)-6-chloro-7-hydroxy-4-methyl-2H-chromen-2-one | ClC1=C(CC=2C(OC3=CC(=C(C=C3C2C)Cl)O)=O)C(=CC=C1)Cl | C17H11Cl3O3
reactant | 3-(methyl-phenyl-carbamoyl)-1-methyl-3H-imidazol-1-ium iodide | [I-].CN(C(=O)N1C=[N+](C=C1)C)C1=CC=CC=C1
product | Methyl-phenyl-carbamic acid 3-(2,6-dichloro-benzyl)-6-chloro-4-methyl-2-oxo-2H-chromen-7-yl ester | ClC1=C(CC=2C(OC3=CC(=C(C=C3C2C)Cl)OC(N(C2=CC=CC=C2)C)=O)=O)C(=CC=C1)Cl | C25H18Cl3NO4
